US04411900
A mixture of 2-acetamido-4-(4-benzhydrylpiperazin-1-ylmethyl)-5-chlorothiazole (5.4 g), methanol (50 ml) and conc. hydrochloric acid (12.5 ml) was refluxed under heating for 6 hours. After concentration of the reaction mixture, the resultant crystals were recrystallized from methanol to obtain white crystals (1.3 g) of 2-amino-4-(4-benzhydrylpiperazin-1-ylmethyl)-5-chlorothiazole trihydrochloride, mp 210°-250° C.

reactant | 2-acetamido-4-(4-benzhydrylpiperazin-1-ylmethyl)-5-chlorothiazole | 5.4 g | C(C)(=O)NC=1SC(=C(N1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)Cl | C23H25ClN4OS
reactant | hydrochloric acid | 12.5 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 2-amino-4-(4-benzhydrylpiperazin-1-ylmethyl)-5-chlorothiazole trihydrochloride | 1.3 g | Cl.Cl.Cl.NC=1SC(=C(N1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)Cl | InChI=1S/C21H23ClN4S.3ClH/c22-20-18(24-21(23)27-20)15-25-11-13-26(14-12-25)19(16-7-3-1-4-8-16)17-9-5-2-6-10-17;;;/h1-10,19H,11-15H2,(H2,23,24);3*1H
